US07601728B2
tert-Butyl {(3R)-1-[5-(2-chlorobenzyl)-7-(4-methoxyphenyl)-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate
Bis(dibenzylideneacetone)palladium (18 mg), tri-tert-butylphosphonium tetrafluoroborate (22 mg), potassium phosphate (329 mg) and 4-methoxyphenylboronic acid (236 mg) were added to a solution of tert-butyl {(3R)-1-[7-bromo-5-(2-chlorobenzyl)-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate (90 mg) in dioxane (4 ml), and the resulting mixture was stirred with heating at 50° C. for 15 hours. The reaction solution was filtered through Celite and washed with tetrahydrofuran and the filtrate was concentrated under reduced pressure. A 10% aqueous potassium carbonate solution was added to the residue, followed by two runs of extraction with chloroform (50 ml). The organic layer was dried over sodium sulfate and filtered and the filtrate was concentrated under reduced pressure. The resulting residue was purified by a silica gel column chromatography (hexane/ethyl acetate=2/1) to obtain the title compound (10 mg).

reactant | tri-tert-butylphosphonium tetrafluoroborate | 22 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | potassium phosphate | 329 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 4-methoxyphenylboronic acid | 236 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | tert-butyl {(3R)-1-[7-bromo-5-(2-chlorobenzyl)-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 90 mg | BrC1=C(N(C2=C1N(C(N(C2=O)C)=O)C)CC2=C(C=CC=C2)Cl)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C25H31BrClN5O4
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
catalyst | Bis(dibenzylideneacetone)palladium | 18 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | tert-Butyl {(3R)-1-[5-(2-chlorobenzyl)-7-(4-methoxyphenyl)-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 10 mg | ClC1=C(CN2C(=C(C=3N(C(N(C(C32)=O)C)=O)C)C3=CC=C(C=C3)OC)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=CC=C1 | C32H38ClN5O5
